US09278915B2
Intermediate 155: Ethyl 3-{6-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]pyridin-3-yl}propanoate
To a solution of ethyl (2E)-3-(6-{[4-(2-oxo-2-phenylethoxy)benzyl]oxy}pyridin-3-yl)prop-2-enoate (0.13 g, 0.3 mmol) in ethanol was added pyridine (0.038 g, 0.45 mmol) and O-Methoxylamine hydrochloride, the resulting mass was refluxed at 80° C. for 3 h. Reaction quenched with water and extracted with ethyl acetate, organic layer was washed with water and brine solution dried over anhydrous Na2SO4 and concentrated to colourless oil (0.03 g, Yield: 23%); MS (ESI, 120 eV): m/z=449 (M+H)+.

reactant | ethyl (2E)-3-(6-{[4-(2-oxo-2-phenylethoxy)benzyl]oxy}pyridin-3-yl)prop-2-enoate | 0.3 mmol, 0.13 g | O=C(COC1=CC=C(COC2=CC=C(C=N2)/C=C/C(=O)OCC)C=C1)C1=CC=CC=C1 | C25H23NO5
reactant | pyridine | 0.45 mmol, 0.038 g | N1=CC=CC=C1 | C5H5N
reactant | EtOH | CCO | C2H6O
product | Ethyl 3-{6-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]pyridin-3-yl}propanoate | 0.03 g, Yield: 23% | CO\N=C(/COC1=CC=C(COC2=CC=C(C=N2)CCC(=O)OCC)C=C1)\C1=CC=CC=C1 | C26H28N2O5
